US07947738B2
(23-a) Tert-butyl-[(1S,5R,6R)-6-(tert-butoxycarbonylamino)methyl-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl[(1S,5R,6R)-6-(nitromethyl)-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetate (peak 2, 6.90 g, 23.36 mmol) was dissolved in ethanol (80 mL) and water (20 mL). To the solution, iron powder (6.52 g, 116.8 mmol) and ammonium chloride (1.25 g, 23.36 mmol) were added, and the mixture was stirred for 4.5 hours under heating to reflux. The mixture was allowed to cool and then filtered through Celite to remove insoluble matter. To the filtrate, (Boc)2O (15.30 g, 70.08 mmol) was added, and the filtrate was then made basic (pH>9) using a 2 N sodium hydroxide solution and stirred at room temperature for 2 hours. The solution was concentrated, and the residue was diluted with ethyl acetate. The dilution was washed with water and saturated saline and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (8.51 g, 99%).

reactant | Tert-butyl[(1S,5R,6R)-6-(nitromethyl)-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetate | 23.36 mmol, 6.90 g | C(C)(C)(C)OC(C[C@]1([C@H]2C=C(C[C@H]2C1)CC)C[N+](=O)[O-])=O | C16H25NO4
reactant | ammonium chloride | 23.36 mmol, 1.25 g | [Cl-].[NH4+]
reactant | (Boc)2O | 70.08 mmol, 15.30 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | iron | 116.8 mmol, 6.52 g | [Fe] | Fe
product | Tert-butyl-[(1S,5R,6R)-6-(tert-butoxycarbonylamino)methyl-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetate | C(C)(C)(C)OC(C[C@]1([C@H]2C=C(C[C@H]2C1)CC)CNC(=O)OC(C)(C)C)=O | C21H35NO4
